Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with hx. CAD s/p PCI (last ___, AV 
endocarditis (___), HTN, IDDM, neuropathy with frequent falls 
presenting with c/o confusion and anemia.
Patient reports confusion for the last ___ weeks. Describes it 
mainly as word finding difficulty and having problems putting 
sentences together. Denies forgetting his name or where he 
lives. Says it progressed to the point where he and his wife 
were worried. Also has noticed increased swelling in his legs as 
well as dyspnea on exertion for last week or so. Says he 
normally can walk around his house OK but just walking 10ft over 
the last week or so has made him short of breath. Thinks he has 
put on about ___ over this time. Denies chest pain or 
orthopnea. He does have a history of BPH as well as urinary 
incontinence, which he says is worse at night. Follows with a 
urologist (Dr. ___ and was planning on having bladder 
surgery today for implant of some sort of device to aid with 
knowing when his bladder was full. He denies recent problems 
with urination such as dysuria, frequency, or problems with weak 
stream. No fevers, chills, headache, no numbness/tingling or 
weakness. Has baseline gait abnormalities he attributes to 
multiple orthopedic procedurs he has had over the years. Does 
not endorse increased falls.
Patient originally presented to ___ where labs revealed ___ 
with Cr 4.2 from baseline 1.0, also anemia with H/H 6.9/___.7 
(b/l ___. Patient was transfused 1u pRBCs. CXR showed 
pulmonary edema for which patient was given 1L fluid with 40mg 
IV lasix (1455), renal u/s showed severe b/l hydronephrosis with 
bladder wall thickening, had foley placed with 1.5L urine 
returned.
In ___ ED initial vitals were: 97.8 70 189/89 16 98% 2L Nasal 
Cannula
- Labs were significant for chemistries of 129/4.___/62/4.0. 
H/H ___. u/a with few bacteria and trace leuks.
- Patient was given oxycodone with tylenol 2 tabs.
On the floor, patient currently has no complaints.
Review of Systems:
(+) per HPI
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
DM 1 c/b gastroparesis, neuropathy
BPH
Neurogenic bladder
CAD s/p PCI ___
AV endocarditis ___
HTN
Osteoporosis, hip fractures

 
Social History:
___
Family History:
father with bladder cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals - 98.5 183/63 hr 72 20 100% 3L
GENERAL: awake, alert, NAD, oriented x4
HEENT: EOMI, PERRLA, OMM no lesions
NECK: nontender supple neck, no LAD, no JVD
CARDIAC: RRR, ___ systolic murmur LUSB
LUNG: crackles RLB, no wheezing
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: 1+ PE in ___ b/l
GU: foley in place draining pink tinged urine
NEURO: CN II-XII intact, moves all fours
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL:
Vitals:  Tm 98.6 Tc 98.6 145-186/65-80 HR ___ RR 20 97% RA
BG: 194 
I/0: not recorded/1300 in foley
General:AAO x3, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley in place draining yellow urine
Ext: warm, well perfused, 2+ pulses, trace pitting edema to 
ankles bilaterally, + dry/scaling skin bilaterall feet and 
ankles, +onychomycosis, no skin lesions on feet   
Neuro: motor function grossly normal, mild asterixis  

 
Pertinent Results:
ADMISSION LABS:
================
___ 10:00PM URINE  HOURS-RANDOM UREA N-140 CREAT-12 
SODIUM-88 POTASSIUM-15 CHLORIDE-83
___ 10:00PM URINE  OSMOLAL-255
___ 10:00PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-300 
GLUCOSE-100 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR
___ 10:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:00PM URINE  RBC-69* WBC-12* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 08:47PM   GLUCOSE-226* LACTATE-1.4 NA+-133 K+-4.8
___ 08:45PM   GLUCOSE-224* UREA N-62* CREAT-4.0*# 
SODIUM-129* POTASSIUM-4.8 CHLORIDE-93* TOTAL CO2-23 ANION GAP-18
___ 08:45PM   CK-MB-4 cTropnT-0.05* proBNP-9035*
___ 08:45PM   CALCIUM-9.4 PHOSPHATE-4.1 MAGNESIUM-2.0
___ 08:45PM   WBC-9.3 RBC-3.51* HGB-8.6* HCT-26.2* MCV-75*# 
MCH-24.6*# MCHC-33.0 RDW-18.0*
___ 08:45PM   NEUTS-79.4* LYMPHS-12.5* MONOS-5.6 EOS-2.1 
BASOS-0.5
___ 08:45PM   ___ PTT-29.4 ___

MICRO:
======
___ 8:45 pm BLOOD CULTURE: Pending

IMAGING:
========
___ on ___: he left atrium and right atrium are normal in 
cavity size. No atrial septal defect is seen by 2D or color 
Doppler. The estimated cardiac index is normal (>=2.5L/min/m2). 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. No masses or vegetations are seen on the aortic 
valve. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. 
Mild (1+) mitral regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. No vegetation/mass is 
seen on the pulmonic valve. There is a trivial/physiologic 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
left ventricular hypertrophy with impaired LV relaxation pattern 
is seen, the degrees of mitral and tricuspid are mild, and the 
estimated pulmonary arterial pressure is greater; other findings 
are similar. 

 
Brief Hospital Course:
___ with h/o DM1 complicated by peripheral neuropathy and 
gastroparesis, HTN, BPH, neurogenic bladder transferred from 
___ for ___ in the setting of acute urinary retention.

# ___: Cr increased to 4.0 on admission from baseline 1.0. Given 
severe bilateral hydronephrosis noted on renal u/s and drainage 
of 1.5L of urine with foley placement at ___,  most likely 
post renal from obstructive uropathy. There was no indication 
for acute HD. Cr gradually improved to 2.8 at discharge.

# Acute urinary retention: Pt has h/o acute urinary retention 
due to BPH and neurogenic bladder for which he is followed by 
outpatient urologist Dr. ___. Per phone discussion 
with Dr. ___ leaving foley in placed pending 
outpatient urology follow-up to be arranged at discharge. Of 
note, Dr. ___ not feel that bladder wall thickening 
noted on ___ renal/bladder u/s was concerning or required 
f/u with CT as patient has had normal cystoscopy in the past. 
Patient was planned for Interstim placement ___ which will 
be rescheduled. Home finasteride and tamsulosin were continued. 

# Confusion: Likely due to acute urinary retention and uremia. 
CT head at ___ negative for acute process, no fevers or 
leukocytosis to suggest occult infection. Patient was AAOx 3 on 
arrival. 

# Microcytic Anemia: Received 1 unit PRBC at ___ prior to 
arrival for HGB 6.9 which was decreased from recent baseline in 
___ records of ~8. Patient denied hematochezia, melena, 
hematemesis or other evidence of bleeding. He denied ever having 
had a colonoscopy. Upper endoscopy at ___ ___ showed 
gastritis,treated with PPI which was continued. He remained 
hemodynamically stable throughout admission and H/H was noted to 
stabilise at 8.2/24.6. Recommend colonoscopy as outpatient along 
with Iron studies given low MCV of 74.

# DM1: Complicated by gastroparesis and peripheral neuropathy. 
Home gabapentin was initially held in the setting of ___. Blood 
sugars were initially uncontrolled, ___ was consulted and 
recommended sticking to patient's original home regimen. 

# Pulm edema: Pt noted to have pulmonary edema following pRBC 
transfusion and IV fluids at ___ requiring diuresis with IV 
lasix. On arrival to ___, patient was euvolemic and weaned 
from supplemental O2. proBNP was markedly elevated on arrival. 
Prior ___ ___ showed preserved systolic function with LVH, 
also mobile mass on MR that was old, ?chordae, with 1+MR. ___ 
this admission showed LVH with preserved EF. 

# HTN: Hypertensive on arrival to ___ 180s, asymptomatic. 
Changed beta blocker from atenolol to carvedilol in the setting 
of severe HTN and ___. PO hydral was discontinued at discharge.  
Could consider re-adding as outpatient if BP still uncontrolled.

TRANSITIONAL ISSUES:
=====================
# ___: Recommend CHEM 10 to be drawn by ___ on ___ and 
lytes repleted as needed. Please call PCP with results at 
___ 

# Acute urinary retention: Foley catheter to remain in place 
until follow up appointment with outpatient urologist, Dr. 
___
# HTN: Medication changes include home dose isosorbide 
mononitrate to 60mg and stopping atenolol and starting 
carvedilol 6.25mg BID. Will need close outpatient monitoring. If 
BP is rising > 170, can consider increasing carvedilol dosing or 
adding hydralazine. This can be discussed at PCP ___.

# Anemia: Recommend CBC to be drawn by ___ on ___. Consider 
colonoscopy and iron studies as outpatient.
#Pain control: Gabapentin was held in setting of ___. Can 
continue percocet for pain control for now. Consider re-starting 
once kidney function improves. THis can be discussed at next PCP 
___.

#DM: Patient's glucose was in 200-300 range when lantus was 
held. Was in 190s on day of discharge. Please continue to 
monitor fingersticks per prior daily routine

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Omeprazole 20 mg PO DAILY 
2. Magnesium Oxide 400 mg PO BID 
3. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN pain 
4. Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Pravastatin 80 mg PO QPM 
7. Gabapentin 800 mg PO BID 
8. Gabapentin 1200 mg PO QHS 
9. Finasteride 5 mg PO DAILY 
10. Citalopram 40 mg PO DAILY 
11. Tamsulosin 0.4 mg PO BID 
12. Atenolol 12.5 mg PO DAILY 
13. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Tamsulosin 0.4 mg PO BID 
5. Pravastatin 80 mg PO QPM 
6. Omeprazole 20 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN pain 
10. Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Kidney Injury
Acute urinary retention
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

It was a pleasure participating in your care at ___. You were 
admitted to the hospital with kidney injury due to urinary 
retention. You will need to keep the foley catheter in place 
until you see your urologist, Dr. ___ in clinic. 
 
Followup Instructions:
___